US08865713B2
Step F: 1-(6-Chloro-5-phenoxy-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid.
1-(6-Chloro-5-phenoxy-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (0.361 g) was dissolved in glacial acetic acid (9 mL) and 6N HCl (9 mL) and heated in a sealed tube at 100° C. for 6 h. After cooling in ice, water (5 mL) was added and the solids were collected via filtration, washed with water, and dried under vacuum (60° C., 10 mmHg). The resulting tan powder was recrystallized from MeOH:water (10 mL, 10:1), collected via filtration and dried under reduced pressure to afford the title compound as a tan solid (115 mg, 90%). Mp=134-138° C. (dec.). MS (ESI/CI): mass calcd. for C17H11ClN4O3, 354; m/z found, 355 [M+H]+, 396 [MH+MeCN]+. 1H NMR (mixture of tautomers) (500 MHz, DMSO-d6): 13.60 (s, 0.5H), 13.50 (s, 0.5H), 12.93 (s, 1H), 8.89 (s, 1H), 8.30 (s, 1H), 7.90 (s, 0.5H), 7.65 (s, 0.5H), 7.42 (m, 2.5H), 7.15 (m, 1.5H), 7.02-6.75 (m, 2H).

reactant | 1-(6-Chloro-5-phenoxy-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.361 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1)C=C(C(=C2)OC2=CC=CC=C2)Cl | C19H15ClN4O3
reactant | HCl | 6N, 9 mL | Cl | ClH
reactant | water | 5 mL | O | H2O
solvent | acetic acid | 9 mL | C(C)(=O)O | C2H4O2
product | 1-(6-Chloro-5-phenoxy-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid | 115 mg, 90% | ClC=1C(=CC2=C(NC(=N2)N2N=CC(=C2)C(=O)O)C1)OC1=CC=CC=C1 | C17H11ClN4O3
